************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SDFFSHQX1
* View Name:     schematic
* Netlisted on:  Jun  4 07:49:47 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SDFFSHQX1
* View Name:    schematic
************************************************************************

.SUBCKT SDFFSHQX1 CK D Q SE SI SN VDD VSS
*.PININFO CK:I D:I SE:I SI:I SN:I VDD:I VSS:I Q:O
Mmn51 net467 qbint net459 VSS g45n1svt m=1 l=45n w=205n
Mmn52 n30 CKb net467 VSS g45n1svt m=1 l=45n w=205n
Mmn50 net459 SN VSS VSS g45n1svt m=1 l=45n w=205n
Mmn13 net455 SI VSS VSS g45n1svt m=1 l=45n w=260n
Mmn14 Db SE net455 VSS g45n1svt m=1 l=45n w=260n
Mmn12 Db SEb net443 VSS g45n1svt m=1 l=45n w=260n
Mmn11 net443 D VSS VSS g45n1svt m=1 l=45n w=260n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=260n
Mmn30 net435 SN VSS VSS g45n1svt m=1 l=45n w=205n
Mmn31 mout n20 net435 VSS g45n1svt m=1 l=45n w=205n
Mmn35 net427 mout VSS VSS g45n1svt m=1 l=45n w=205n
Mmn36 n20 CKbb net427 VSS g45n1svt m=1 l=45n w=205n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn25 n20 CKb Db VSS g45n1svt m=1 l=45n w=205n
Mmn40 n30 CKbb mout VSS g45n1svt m=1 l=45n w=205n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=205n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmp14 Db SEb net398 VDD g45p1svt m=1 l=45n w=390n
Mmp13 net398 SI VDD VDD g45p1svt m=1 l=45n w=390n
Mmp12 Db SE net390 VDD g45p1svt m=1 l=45n w=390n
Mmp11 net390 D VDD VDD g45p1svt m=1 l=45n w=390n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=390n
Mmp36 n20 CKb net378 VDD g45p1svt m=1 l=45n w=310n
Mmp35 net378 mout VDD VDD g45p1svt m=1 l=45n w=310n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp52 n30 CKbb net355 VDD g45p1svt m=1 l=45n w=310n
Mmp51 net355 qbint VDD VDD g45p1svt m=1 l=45n w=310n
Mmp50 net355 SN VDD VDD g45p1svt m=1 l=45n w=310n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp31 mout n20 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp30 mout SN VDD VDD g45p1svt m=1 l=45n w=310n
Mmp25 n20 CKbb Db VDD g45p1svt m=1 l=45n w=310n
Mmp40 n30 CKb mout VDD g45p1svt m=1 l=45n w=310n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

